US04075341
2-(3-Hydroxyphenyl)-5,6-dihydro-s-triazolo[5,1-a]isoquinoline
2-(3-Benzyloxyphenyl)-5,6-dihydro-s-triazolo-[5,1-a]isoquinoline (17.7 g.) is dissolved in 500 ml. of ethanol and hydrogenated at atmospheric pressure and room temperature in the presence of 3 g. of 10% Pd on charcoal. After filtration of the catalyst, the solution is concentrated to 100 ml. The product which precipitates on cooling is purified by crystallization from ethanol. Yield 10.1 g.; m.p. 201°-2° C.

reactant | 2-(3-Benzyloxyphenyl)-5,6-dihydro-s-triazolo-[5,1-a]isoquinoline | 17.7 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=NN2C(C3=CC=CC=C3CC2)=N1 | C23H19N3O
catalyst | Pd on charcoal | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 2-(3-Hydroxyphenyl)-5,6-dihydro-s-triazolo[5,1-a]isoquinoline | OC=1C=C(C=CC1)C1=NN2C(C3=CC=CC=C3CC2)=N1 | C16H13N3O
